US09029538B2
2-Ethyl-4-(4-fluoro-phenyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-3-trifluoromethyl-phenyl]-amide.
This compound was synthesized using 4-(6,7-dimethoxy-quinolin-4-yloxy)-3-trifluoromethyl-phenylamine and 2-ethyl-4-(4-fluoro-phenyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxylic acid using the procedure for example 1. mp=148-50° C.; LCMS m/z=626 (M+1); 1H NMR (DMSO): 10.95 (s, 1H), 8.52 (d, 1H), 8.32 (s, 1H), 8.04 (m, 1H), 7.35-7.49 (m, 8H), 6.60 (m, 1H), 4.08 (q, 2H, J=7Hz), 3.97 (s, 3H), 3.89 (s, 3H), 1.35 (t, 3H, J=7Hz).

reactant | 4-(6,7-dimethoxy-quinolin-4-yloxy)-3-trifluoromethyl-phenylamine | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)N)C(F)(F)F | C18H15F3N2O3
reactant | 2-ethyl-4-(4-fluoro-phenyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxylic acid | C(C)N1N=C(C(N(C1=O)C1=CC=C(C=C1)F)=O)C(=O)O | C12H10FN3O4
product | 2-Ethyl-4-(4-fluoro-phenyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-3-trifluoromethyl-phenyl]-amide | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)C=1C(N(C(N(N1)CC)=O)C1=CC=C(C=C1)F)=O)C(F)(F)F | C30H23F4N5O6
